US03959322
dl-13-Ethyl-17β-(1-hydroxy-2,2,2-trichloroethoxy)gon-4-en-3-one
Add 2.9 g. of dl-13-ethyl-17β-hydroxygon-4-en-3-one to a solution of 1.9 g. of chloral hydrate in 10 ml. of benzene at 5°C. Keep the mixture overnight at this temperature. Filter off the product and recrystallize it successively from ethyl acetate and petroleum ether-benzene to obtain the title substance, m.p. 175°-176°; ultraviolet peak at 240 mμ (ε17,500); infrared peaks at 3.10, 6.05, 6.20 μ.

reactant | 13-ethyl-17β-hydroxygon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)O | C19H28O2
reactant | chloral hydrate | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 13-Ethyl-17β-(1-hydroxy-2,2,2-trichloroethoxy)gon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)OC(C(Cl)(Cl)Cl)O | C21H29Cl3O3
